US06881746B2
Steps 5 and 6: 3-{4-[2-[4-(4-Chlorophenyl)thiazol-2-yl]-2-(4-trifluoromethoxyphenyl)ethyl]benzoylamino}propionic acid:
4-[2-[4-(4-Chlorophenyl)thiazol-2-yl]-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid (0.16 g, 0.31 mmol) was dissolve in DMF (5 mL) and 1-hydroxybenzotriazole (51.48 mg, 0.38 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (73 mg, 0.38 mmol) were added and the mixture was stirred at room temperature for 1.5 hours. DI PEA (0.123 g, 0.95 mmol) and 3-aminopropionic acid methyl ester hydrochloride (66 mg, 0.48 mmol) were added to the mixture. The mixture was heated at 40° C. for 2 hours and left with stirring for 16 hours at room temperature. Ethyl acetate (5 mL) was added and the mixture was washed with water (5 mL). The aqueous phase was extracted with ethyl acetate (5 mL). The combined organic phases were washed with brine (5 mL) and water (5 mL) and concentrated in vacuo to afford crude intermediary ester compound. The ester was dissolved in a mixture of methanol (4 mL) and THF (1 mL) and 4M sodium hydroxide (0.2 mL) was added. The mixture was stirred for 16 hours at room temperature and the solvents were removed by evaporation in vacuo. Water (6 mL) was added and the pH was adjusted (1-2) by the addition of 1M hydrochloric acid. The precipitate was filtered off, washed with water and dried to afford 126 mg (69%) of the title compound as a solid.

reactant | 4-[2-[4-(4-Chlorophenyl)thiazol-2-yl]-2-(4-trifluoromethoxyphenyl)ethyl]benzoic acid | 0.31 mmol, 0.16 g | ClC1=CC=C(C=C1)C=1N=C(SC1)C(CC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)OC(F)(F)F | C25H17ClF3NO3S
reactant | 1-hydroxybenzotriazole | 0.38 mmol, 51.48 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.38 mmol, 73 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-aminopropionic acid methyl ester hydrochloride | 0.48 mmol, 66 mg | Cl.COC(CCN)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 4 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 4M, 0.2 mL | [OH-].[Na+]
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 3-{4-[2-[4-(4-Chlorophenyl)thiazol-2-yl]-2-(4-trifluoromethoxyphenyl)ethyl]benzoylamino}propionic acid | 126 mg, 69% | ClC1=CC=C(C=C1)C=1N=C(SC1)C(CC1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=C(C=C1)OC(F)(F)F | C28H22ClF3N2O4S
